US06765012B2
A room temperature solution of 1.1220 gms. 4-(4-nitro-phenyl)-butyric acid in tetrahydrofuran (3 mL) is treated with 0.8978 gms. 1′,1′-carbonyl-diimidizole using an ice bath to attenuate the intensity of the reaction. The reaction mixture is stirred for 30 minutes in the ice bath and 30 minutes at room temperature. The reaction mixture is then treated with 0.5 mL morpholine. The reaction was heated overnight at 35° C. The reaction is then allowed to cool to room temperature, and is made basic with the addition of saturated aqueous sodium bicarbonate. The resulting mixture is extracted with ethyl acetate. The organics are dried over anhydrous sodium sulfate, filtered and evaporated to dryness in vacuo. The crude product residue is then purified by filtering it through a plug of silica gel using 50% ethyl acetate in hexanes as the eluant. Following evaporation of solvent, 4-(4-nitro-phenyl)-1-piperidin-1-yl-butan-1-one is isolated as a yellow oil in the amount of 1.47 gms.

reactant | 4-(4-nitro-phenyl)-butyric acid | [N+](=O)([O-])C1=CC=C(C=C1)CCCC(=O)O | C10H11NO4
reactant | morpholine | 0.5 mL | N1CCOCC1 | C4H9NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4-(4-nitro-phenyl)-1-piperidin-1-yl-butan-1-one | [N+](=O)([O-])C1=CC=C(C=C1)CCCC(=O)N1CCCCC1 | C15H20N2O3
